US07105507B2
Borane tetrahydrofuran complex (1M in tetrahydrofuran, 23.68 mL, 23.68 mmol) was added dropwise to a solution of 1,1-dimethylethyl 1-oxa-9-azaspiro[5.5]undec-3-en-9-carboxylate (Description 131, 2.0 g, 7.89 mmol) in tetrahydrofuran (30 mL) and the mixture was stirred at room temperature for 6.5 hours. Water (25 mL), aqueous sodium hydroxide (4M, 25 mL) and hydrogen peroxide (37%, 25 mL) were added and the mixture was stirred at room temperature for 20 minutes. Water (100 mL) and diethyl ether (100 mL) were added and the layers were separated. The aqueous fraction was extracted with diethyl ether (100 mL) and the combined organic fractions were washed with brine, dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with ethyl acetate. The residue was purified by MPLC on silica gel, eluting with ethyl acetate, to give 1,1-dimethylethyl 3-hydroxy-1-oxa-9-azaspiro[5.5]undecane-9-carboxylate (520 mg, 24%); 1H NMR (360 MHz, CDCl3) δ 3.76–3.71 (4H, m), 3.50–3.45 (1H, m), 3.16–3.07 (2H, m), 1.92–1.85 (3H, m), 1.75–1.63 (2H, m), 1.46 (9H, s), and 1.45–1.35 (3H, m); and 1,1-dimethylethyl 4-hydroxy-1-oxa-9-azaspiro[5.5]undecane-9-carboxylate (200 mg, 9%);. 1H NMR (400 MHz, CDCl3) δ 4.02–3.93 (1H, m), 3.87–3.83 (1H, m), 3.75–3.71 (2H, m), 3.57 (1H, dt, J 2.3, 11.7 Hz), 3.19 (1H, t, J 11.3 Hz), 3.03 (1H, t, J 11.7 Hz), 1.95–1.87 (2H, m), 1.86–1.81 (1H, m), 1.68–1.65 (1H, m), 1.57–1.47 (2H, m), 1.45 (9H, s), and 1.41–1.28 (2H, m).

reactant | Borane tetrahydrofuran | 23.68 mmol, 1M, 23.68 mL | O1CCCC1.B
reactant | 1,1-dimethylethyl 1-oxa-9-azaspiro[5.5]undec-3-en-9-carboxylate | 7.89 mmol, 2.0 g | O1CC=CCC12CCN(CC2)C(=O)OC(C)(C)C | C14H23NO3
reactant | sodium hydroxide | 4M, 25 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 25 mL | OO | H2O2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | Water | 100 mL | O | H2O
solvent | Water | 25 mL | O | H2O
product | 1,1-dimethylethyl 3-hydroxy-1-oxa-9-azaspiro[5.5]undecane-9-carboxylate | 520 mg, 24% | OC1COC2(CC1)CCN(CC2)C(=O)OC(C)(C)C | C14H25NO4
